US07655666B2
N-[6-(2-Benzyloxy-2H-pyrazol-3-yl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide
To a solution of 2-amino-5-(2-benzyloxy-2H-pyrazol-3-yl)-4-trifluoromethyl-benzoic acid methyl ester (263 mg, 0.672 mmol) in DCM (15 mL) were added successively Et3N (0.37 mL, 2.69 mmol) and then (CCl3O)2CO (163 mg, 0.53 mmol). The resulting mixture was stirred at r.t. for 2.5 h. The solvent was removed in vacuo and the residue was solubilised in THF. CH3SO2NHNH2 (98 mg, 0.87 mmol) was added. After stirring the mixture at r.t. for 2.5 h, it was treated with aq NaOH (1N, 0.87 mL) for 30 min. The solvent was removed in vacuo and water was added. The pH was adjusted to 3-4 by addition of 1N aq HCl. The aqueous phase was extracted with AcOEt (2×). The organic phases were combined, washed with brine, dried (Na2SO4) and concentrated in vacuo to afford a yellow syrup. The crude product was purified by flash chromatography (silica gel, DCM/MeOH (100:0 to 90:10)) to provide the title compound as an off-white solid (100 mg, 30%). ES-MS: m/z 496.3 [M+H]+, rt 5.81 min.

reactant | 2-amino-5-(2-benzyloxy-2H-pyrazol-3-yl)-4-trifluoromethyl-benzoic acid methyl ester | 0.672 mmol, 263 mg | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)OCC1=CC=CC=C1)C(F)(F)F)N)=O | C19H16F3N3O3
reactant | Et3N | 2.69 mmol, 0.37 mL | CCN(CC)CC | C6H15N
reactant | CH3SO2NHNH2 | 0.87 mmol, 98 mg | CS(=O)(=O)NN | CH6N2O2S
reactant | NaOH | 1N, 0.87 mL | [OH-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | N-[6-(2-Benzyloxy-2H-pyrazol-3-yl)-2,4-dioxo-7-trifluoromethyl-1,4-dihydro-2H-quinazolin-3-yl]-methanesulfonamide | 100 mg, 30% | C(C1=CC=CC=C1)ON1N=CC=C1C=1C=C2C(N(C(NC2=CC1C(F)(F)F)=O)NS(=O)(=O)C)=O | C20H16F3N5O5S
